US08937060B2
2,3-Dichloro-4-iodo-pyridine (D10)
To a solution of n-butyllithium (27.6 ml, 69 mmol, 2.5 M in hexanes) in dry Et2O (150 ml) cooled at −78° C., under a nitrogen atmosphere, was added 2,2,6,6-tetramethylpiperidine (11.64 ml, 69 mmol), dropwise. The resulting reaction mixture was stirred at −78° C. for 10 min., and then a solution of 2,3-dichloropyridine (10 g, 67.57 mmol) in dry THF (75 ml) was added dropwise. The mixture was stirred at −78° C. for 30 min. and then a solution of iodine (25.38 g, 100 mmol) in dry THF (75 ml) was added. The mixture was allowed to warm to r.t. overnight, quenched with Na2S2O3 (aqueous sat. solution) and extracted twice with EtOAc. The combined organic extracts were washed with NaHCO3 (aqueous sat. solution), dried (Na2SO4) and concentrated in vacuo. The crude residue was precipitated with heptane, filtered off and dried to yield intermediate compound D10 (8.21 g, 44%) as a pale cream solid.

reactant | n-butyllithium | 69 mmol, 2.5 M, 27.6 ml | C(CCC)[Li]
reactant | 2,2,6,6-tetramethylpiperidine | 69 mmol, 11.64 ml | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | 2,3-dichloropyridine | 67.57 mmol, 10 g | ClC1=NC=CC=C1Cl | C5H3Cl2N
reactant | iodine | 100 mmol, 25.38 g | II | I2
solvent | Et2O | 150 ml | CCOCC | C4H10O
solvent | THF | 75 ml | C1CCOC1 | C4H8O
solvent | THF | 75 ml | C1CCOC1 | C4H8O
product | 2,3-Dichloro-4-iodo-pyridine | ClC1=NC=CC(=C1Cl)I | C5H2Cl2IN
